Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Codeine / Percocet
 
Attending: ___.
 
Chief Complaint:
non healing right foot wound
 
Major Surgical or Invasive Procedure:
___: diagnostic angiogram 

 
History of Present Illness:
___ with multiple chronic medical conditions who is being
transferred from ___ for poorly healing diabetic ulcer on 
his
right foot. This ulcer has been present for approx 3 months and
he has been treated by his PCP with ___ for  3 days prior
to admission on ___ at ___ where he was started on
Ertapenem. He denies any fevers/chills/SOB/CP.

 
Past Medical History:
CKD, DM, proteinuria, PNA, HTN, PVD, hyperlipidemia, back pain

PSH: Rt fem-BK pop bypass graft ___. Angioplasty of outflow 
stenosis at the distal anastomosis in ___. 5-graft occluded, 
criticial right common fem occlusion, ABI 0.3     
 
Social History:
___
Family History:
significant for diabetes. 
 
Physical Exam:
VSS
Gen: Slightly disheveled, wdwn in NAD
CV: RRR
Lung: CTA bilat
Abd: Soft no m/t/o
Extremities:  mild ___ edema, erythema  on right foot with great 
toe
eschar
Groin: Puncture site c/d/i

    Fem  Pop  DP  ___
R  p    p    BP   BP   graft TP/palp
L  p    p     TP   TP
 

 
Pertinent Results:
___ 10:40PM BLOOD WBC-10.5 RBC-3.95* Hgb-10.8* Hct-33.8* 
MCV-86 MCH-27.2# MCHC-31.8 RDW-13.0 Plt ___
___ 10:40PM BLOOD Glucose-176* UreaN-28* Creat-1.5* Na-138 
K-4.2 Cl-102 HCO3-26 AnGap-14
___ 10:40PM BLOOD ALT-21 AST-28 AlkPhos-82 TotBili-0.2
___ 10:40PM BLOOD Calcium-8.8 Phos-3.0 Mg-1.8
 
Brief Hospital Course:
Mr. ___ was admitted with right lower extremity ischemia, and 
concern for infected non healing right foot ulcer. He was 
started on vancomycin, cipro and flagyl.  On HD 2 he was taken 
for an angiogram which showed and occluded graft and severe 
arterial disease. It was recommended that he undergo vein 
mapping and a bypass from his right femoral to anterior tibial 
artery.  On HD 3 he adamently refused to have any further 
evaluation or treatment. He refused vein mapping and after 
lengthy discussion with Dr. ___ that he would 
absolutely not have a bypass surgery. He understood that without 
a bypass he would not have adequate blood flow to his right 
leg/foot, and that his wound would not heal. He also understood 
that he would likely develop worsening symptoms and eventually 
loose part of his right leg and that this could potentialy be 
fatal if not treated appropriately.  He verbalized his 
understanding of everything and was discharged home with oral 
antibiotics. He will follow up in the office in a weeks time. If 
he changed his mind and decideds he would like to go forward 
with treatment, he will contact us immediately. 
 
Medications on Admission:
Plavix 75', Neurontin 600''', glyburide 6'', NovoLog sliding 
scale, Levemir 28 units at 9:00 p.m., simvastatin 40', aspirin 
81', tramadol/tylenol 37.5/325 '''' 

 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. gabapentin 300 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).  
4. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. glyburide micronized 6 mg Tablet Sig: One (1) Tablet PO twice 
a day: restart on ___.  
6. Novolog Flexpen 100 unit/mL Insulin Pen Sig: sliding scale  
Subcutaneous three times a day: per home regimen .  
7. Levemir Flexpen 100 unit/mL (3 mL) Insulin Pen Sig: Twenty 
Four (24) units Subcutaneous at bedtime.  
8. hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
9. Augmentin 875-125 mg Tablet Sig: One (1) Tablet PO twice a 
day for 1 weeks.
Disp:*14 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right lower extremity ischemia
Non healing, infected right foot ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Lower Extremity Angioplasty/Stent Discharge Instructions

You were admitted with poor blood flow to your right leg and an 
infected, poorly healing right foot ulcer.  We did an angiogram 
which showed that your previous bypass is occluded and you have 
severe arterial disease.  You need a femoral artery to anterior 
tibial artery bypass graft to restore blood flow to your leg. 
Without this surgery you risk worsening infection, and loss of 
your foot, leg or life.  Dr. ___ a long discussion with 
you and you refused further imaging and surgery at this time, 
despite the consequences. 

You are being discharged on antibiotics and you will follow up 
with Dr. ___ in the ___ office. 

Medications:
•Take Aspirin 325mg once daily 
•Continue Plavix (Clopidogrel) 75mg once daily
•Continue all other medications you were taking before surgery
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•When you go home, you ___ walk and go up and down stairs
•You ___ shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision ___ be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you ___ resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications
•Call and schedule an appointment to be seen in ___ weeks for 
post procedure check and ultrasound 

What to report to office:
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
•Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 
 
Followup Instructions:
___